US05167949
b) 2-(2,3-Dichlorophenoxy)acetamidine hydrochloride
11.8 g (0.041 mole) of ethyl 2-(2,3-dichlorophenoxy)acetimidate hydrochloride are added rapidly to a solution, cooled to 10° C., of 3.5 g (0.21 mole) of ammonia in 100 ml of absolute ethanol. The reaction mixture is left for 3 days at room temperature. After removal of a few suspended particles by filtration, the reaction mixture is concentrated to dryness under reduced pressure. The solid residue obtained is purified by washing with ether and recrystallization from isopropanol. Yld: 8.0 g (75%), m.p. 204.5°-206.5° C.

reactant | ethyl 2-(2,3-dichlorophenoxy)acetimidate hydrochloride | 0.041 mole, 11.8 g | Cl.ClC1=C(OCC(OCC)=N)C=CC=C1Cl
reactant | ammonia | 0.21 mole, 3.5 g | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2,3-Dichlorophenoxy)acetamidine hydrochloride | Cl.ClC1=C(OCC(=N)N)C=CC=C1Cl | InChI=1S/C8H8Cl2N2O.ClH/c9-5-2-1-3-6(8(5)10)13-4-7(11)12;/h1-3H,4H2,(H3,11,12);1H
